US06939885B2
Synthesis of N-[4-Chloro-2-(pyridine-4-carbonyl)-phenyl]-3-cyano-benzenesulfonamide
The title compound was prepared according to the general procedure for the synthesis of N-Aryl-benzenesulfonamides previously described using 116 mg of (2-amino-5-chloro-phenyl)-pyridin-4-yl-methanone and 100 mg of 3-cyano-benzenesulfonyl chloride. 1H-NMR (400 MHz, CDCl3): δ 7.36 (d, 1H, J=2.4 Hz), 7.57-7.62 (m, 4H), 7.68 (d, 1H, J=8.8 Hz), 7.80 (m, 1H), 8.04 (m, 2H), 8.90 (dd, 2H, J=4.8 Hz, 1.6 Hz), 10.3 (b, 1H). MS: m/z 398.8 (M++1).

reactant | (2-amino-5-chloro-phenyl)-pyridin-4-yl-methanone | 116 mg | NC1=C(C=C(C=C1)Cl)C(=O)C1=CC=NC=C1 | C12H9ClN2O
reactant | 3-cyano-benzenesulfonyl chloride | 100 mg | C(#N)C=1C=C(C=CC1)S(=O)(=O)Cl | C7H4ClNO2S
product | N-[4-Chloro-2-(pyridine-4-carbonyl)-phenyl]-3-cyano-benzenesulfonamide | ClC1=CC(=C(C=C1)NS(=O)(=O)C1=CC(=CC=C1)C#N)C(=O)C1=CC=NC=C1 | C19H12ClN3O3S
